US04174317
(B) 3,3-Dichloro-1-[2-(dimethylamino)ethyl]-4-phenyl-2-azetidinone, hydrochloride (1:1)
Eight grams of N'-benzylidene-N,N-dimethylethylenediamine and 19 g of trichloroacetic anhydride are reacted in 80 ml. of xylene following the procedure described in Example 1. A fairly vigorous reaction begins at 60°-65° C; final heating is for 0.5 hours on a steam bath. An appreciable amount of tarry material is encountered during the work-up. The crude oily base (5.4 g) is dissolved in dichloromethane, treated with 1 equivalent of alcoholic hydrogen chloride and the solvents are removed on a rotary evaporator. When the glass-like residue is rubbed under 30 ml. of acetonitrile, the crystalline hydrogen chloride salt separates. Precipitation is completed by adding ether and cooling for about 16 hours. The solid is filtered under nitrogen, washed with ether, and dried in vacuo to yield 5.6 g of material, melting point 187°-189° C. Crystallization from 25 ml. of hot acetonitrile -50 ml. of ethyl acetate gives 3.8 g of material, melting point 198°-200° C. Following recrystallization from 12 ml. of acetonitrile, the product weighs 2.8 g, melting point 205°-207° C. (sintering at 203° C. ).

reactant | N'-benzylidene-N,N-dimethylethylenediamine | Eight grams | C(C1=CC=CC=C1)=NCCN(C)C | C11H16N2
reactant | trichloroacetic anhydride | 19 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,3-Dichloro-1-[2-(dimethylamino)ethyl]-4-phenyl-2-azetidinone, hydrochloride | 5.6 g | Cl.ClC1(C(N(C1C1=CC=CC=C1)CCN(C)C)=O)Cl | InChI=1S/C13H16Cl2N2O.ClH/c1-16(2)8-9-17-11(13(14,15)12(17)18)10-6-4-3-5-7-10;/h3-7,11H,8-9H2,1-2H3;1H
